US07947684B2
A. 2-Fluoro-4-pyridin-3-ylbenzoic acid
The title compound is prepared as described in EXAMPLE 31, Part I, but with 4-bromo-2-fluorobenzoic acid and 3-pyridinylboronic acid as starting materials. 1H NMR (DMSO) δ 8.97 (d, 1H), 8.66-8.58 (m, 1H), 8.22-8.12 (m, 1H), 8.00-7.91 (m, 1H), 7.81-7.62 (m, 2H), 7.55-7.45 (m, 1H). ESI MS (M+1)+: 218.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 3-pyridinylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-Fluoro-4-pyridin-3-ylbenzoic acid | FC1=C(C(=O)O)C=CC(=C1)C=1C=NC=CC1 | C12H8FNO2
